US04031226
A mixture of 12.94 parts of ethyl (2-bromoethyl)carbamate, 13.51 parts of 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one, 10.1 parts of sodium hydrogen carbonate and 160 parts of ethanol is stirred and refluxed overnight. The reaction mixture is cooled, filtered over hyflo and the filtrate is evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane, 10% of methanol and one drop of ammonium hydroxide, as eluent. The pure fractions are collected and the eluent is evaporated, yielding 4.4 parts of ethyl 2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethylcarbamate as a residue.

reactant | ethyl (2-bromoethyl)carbamate | BrCCNC(OCC)=O | C5H10BrNO2
reactant | 1,3-dihydro-1-(4-piperidinyl)-2H-benzimidazol-2-one | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 2-[4-(2,3-dihydro-2-oxo-1H-benzimidazol-1-yl)-1-piperidinyl]ethylcarbamate | O=C1NC2=C(N1C1CCN(CC1)CCNC(OCC)=O)C=CC=C2 | C17H24N4O3
